US06147031
Preparation of 5-benzyloxy-4-[3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl]-1-methylpyrazole (Compound No. 1-4)
0.45 g of 4-[3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl]-5-hydroxy-1-methylpyrazole was dissolved in 15 ml of DMF, and 0.26 g of potassium carbonate, then 0.25 g of benzyl bromide were added. The resulting solution was stirred at room temperature overnight. The reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with water, then with a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure. Methanol was added to the residue. The obtained crystals were separated by filtration to give 0.42 g of the title compound as white crystals. m.p. 151.5~153° C.

reactant | 4-[3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl]-5-hydroxy-1-methylpyrazole | 0.45 g | O1N=C(CC1)C=1C(=C(C(=O)C=2C=NN(C2O)C)C=CC1S(=O)(=O)C)C | C16H17N3O5S
reactant | potassium carbonate | 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.25 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-benzyloxy-4-[3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl]-1-methylpyrazole | 0.42 g | C(C1=CC=CC=C1)OC1=C(C=NN1C)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C1=NOCC1)C)=O | C23H23N3O5S
